US07495007B2
To a solution of racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2,3-dihydro-2′-(2-methylphenyl)-2,6′-dioxospiro[indole-3,3′-piperidine]-1-carboxylic acid tert-butyl ester (0.25 g, 0.45 mmol) in N,N-dimethyl-formamide (20 mL) at 0° C. was added LiH (90 mg, 11.2 mmol) (Aldrich), followed by the addition of iodomethane (0.39 g, 2.74 mmol). The reaction mixture was warmed up to room temperature and stirred at room temperature for 3 h. The mixture was diluted with ethyl acetate, and then washed with saturated NH4Cl solution. The aqueous layer was extracted with ethyl acetate and the combined organic layer was dried over MgSO4. The solvent was removed and the residue was purified by chromatography (EtOAc:hexanes=1:2) to give racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2,3-dihydro-1′-methyl-2′-(2-methylphenyl)-2,6′-dioxospiro[indole-3,3′-piperidine]-1-carboxylic acid tert-butyl ester (Yield 0.20 g, 77%).

reactant | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2,3-dihydro-2′-(2-methylphenyl)-2,6′-dioxospiro[indole-3,3′-piperidine]-1-carboxylic acid tert-butyl ester | 0.45 mmol, 0.25 g | C(C)(C)(C)OC(=O)N1C(C2(C(NC(CC2C2=CC(=CC=C2)Cl)=O)C2=C(C=CC=C2)C)C2=CC=C(C=C12)Cl)=O | C30H28Cl2N2O4
reactant | LiH | 11.2 mmol, 90 mg | [H-].[Li+]
reactant | iodomethane | 2.74 mmol, 0.39 g | IC | CH3I
solvent | N,N-dimethyl-formamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2,3-dihydro-1′-methyl-2′-(2-methylphenyl)-2,6′-dioxospiro[indole-3,3′-piperidine]-1-carboxylic acid tert-butyl ester | Yield 0.20 g, 77% | C(C)(C)(C)OC(=O)N1C(C2(C(N(C(CC2C2=CC(=CC=C2)Cl)=O)C)C2=C(C=CC=C2)C)C2=CC=C(C=C12)Cl)=O | C31H30Cl2N2O4
